US04024142
When one tenth mole each of 4-chloro-o-phenylendiamine and phenanthrenequinone were reacted by the method of Example 7(A), 26 g. (83 percent yield) of 11-chlorodibenzo[a,c]phenazine, mp = 241-242° C. were obtained.

reactant | 4-chloro-o-phenylendiamine | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | phenanthrenequinone | C1(C(C=CC=2C3=CC=CC=C3C=CC12)=O)=O | C14H8O2
product | 11-chlorodibenzo[a,c]phenazine | 83 percent yield | ClC=1C=C2N=C3C4=C(C5=C(C3=NC2=CC1)C=CC=C5)C=CC=C4 | C20H11ClN2
